US08138187B2
(±)-N-[1-Benzyl-4-(3-methyl-5-trifluoromethoxy-1H-indol-2-yl)cyclohex-3-enyl]-N,N-dimethylamine (230 mg, 0.53 mmol) was dissolved in methanol (40 ml) and ethanol (10 ml), while heating, and Pd/C (5%, 100 mg) was added under argon. Hydrogenation was carried out at 40° C. under 3 bar for 4 h. The catalyst was then filtered off with suction over Celite and the filtrate was concentrated. The solid colourless residue (227 mg) was separated by chromatography [silica gel 60 (30 g); ethyl acetate/methanol (20:1; 400 ml); (4:1; 500 ml) (2:1; 300 ml)]. 1-Benzyl-N,N-dimethyl-4-(3-methyl-5-(trifluoromethoxy)-1H-indol-2-yl)cyclohexanamine (more polar diastereomer) was obtained in a yield of 175 mg (77%) as a colourless solid.

reactant | (±)-N-[1-Benzyl-4-(3-methyl-5-trifluoromethoxy-1H-indol-2-yl)cyclohex-3-enyl]-N,N-dimethylamine | 0.53 mmol, 230 mg | C(C1=CC=CC=C1)C1(CC=C(CC1)C=1NC2=CC=C(C=C2C1C)OC(F)(F)F)N(C)C | C25H27F3N2O
solvent | methanol | 40 ml | CO | CH4O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-Benzyl-N,N-dimethyl-4-(3-methyl-5-(trifluoromethoxy)-1H-indol-2-yl)cyclohexanamine | C(C1=CC=CC=C1)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)OC(F)(F)F)N(C)C | C25H29F3N2O
